US08377937B2
tert-Butyl 4-chlorocarbonyl-piperazine-1-carboxylate (0.97 g, 3.9 mmol) was added to a solution of 4-chloro-N-(2-(diethylamino)ethyl)benzenamine (884 mg, 3.9 mmol) and N,N-diisopropylethylamine (1.9 mL, 11.7 mmol) in DCM (8 mL). The reaction mixture was heated at reflux for 20 hours. The mixture was cooled to room temperature, quenched with saturated NH4Cl (10 mL), and extracted with DCM (2×20 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude product was purified by silica gel chromatography to give tert-butyl 4-(N-(4-chlorophenyl)-N-(2-(diethylamino)ethyl)carbamoyl)piperazine-1-carboxylate (311 mg, 18%). MS (APCI+) [M+H]+439.4. 1H NMR (CDCl3, 400 MHz) 7.29 (d, J=8.8 Hz, 2H), 7.09 (d, J=8.8 Hz, 2H), 3.70-3.66 (m, 2H), 3.45-3.42 (m, 2H), 3.24-3.21 (m, 4H), 3.15-3.12 (m, 2H), 2.61-2.57 (m, 2H), 2.52 (q, J=7.2 Hz, 4H), 1.42 (s, 9H), 0.99 (t, J=7.2 Hz, 6H).

reactant | tert-Butyl 4-chlorocarbonyl-piperazine-1-carboxylate | 3.9 mmol, 0.97 g | ClC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C10H17ClN2O3
reactant | 4-chloro-N-(2-(diethylamino)ethyl)benzenamine | 3.9 mmol, 884 mg | ClC1=CC=C(C=C1)NCCN(CC)CC | C12H19ClN2
reactant | N,N-diisopropylethylamine | 11.7 mmol, 1.9 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(N-(4-chlorophenyl)-N-(2-(diethylamino)ethyl)carbamoyl)piperazine-1-carboxylate | 311 mg, 18% | ClC1=CC=C(C=C1)N(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)CCN(CC)CC | C22H35ClN4O3
